US07977364B2
3-methyl-1,2-benzisoxazol-6-ol (10 g, 67 mmoles) (prepared following M. A. Elkasaby, Indian J. Chem., 1987, 26, 620) and DMF (50 ml) were added to a mixture of tert-butyldimethylsilyl chloride (1.05 eq, 10.6 g), imidazole (2.5 eq, 11.4 g) and DMF (100 ml) under N2. The mixture was then stirred at room temperature for 1 h, poured into water and extracted with ethyl acetate, dried over Na2SO4, filtered and concentrated under vacuum to give a crude product. Flash chromatography (AcOEt/Toluene 18/85 with 0.1% TEA) gave 6-[(tert-butyl(dimethyl)silyl) oxy]-3-methyl-1,2-benzisoxazole (17.1 g, 97%).

reactant | 3-methyl-1,2-benzisoxazol-6-ol | 67 mmoles, 10 g | CC1=NOC2=C1C=CC(=C2)O | C8H7NO2
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | tert-butyldimethylsilyl chloride | 10.6 g, 1.05 eq | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 11.4 g, 2.5 eq | N1C=NC=C1 | C3H4N2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | AcOEt Toluene | CCOC(=O)C.C1(=CC=CC=C1)C
solvent | water | O | H2O
product | 6-[(tert-butyl(dimethyl)silyl) oxy]-3-methyl-1,2-benzisoxazole | 17.1 g, 97% | [Si](C)(C)(C(C)(C)C)OC1=CC2=C(C(=NO2)C)C=C1 | C14H21NO2Si
